US05093370
2,6-Bis(3-diethylaminopropyl)naphthalene
To a solution of 132 mg of 2,6-bis(3-bromopropyl)naphthalene in 1 ml of absolute ethanol was added dropwise 368 μl of diethylamine at a room temperature with stirring, and the mixture was refluxed for 2.5 hours and then cooled. The reaction mixture was evaporated under a reduced pressure, and after adding 20 ml of water, extracted with 50 ml of benzene. The extract was washed with a saturated sodium chloride aqueous solution, dried over magnesium sulfate, filtered, and evaporated under a reduced pressure to obtain 78 mg of the title compound as a pale yellow liquid.

reactant | 2,6-bis(3-bromopropyl)naphthalene | 132 mg | BrCCCC1=CC2=CC=C(C=C2C=C1)CCCBr | C16H18Br2
reactant | diethylamine | 368 μl | C(C)NCC | C4H11N
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2,6-Bis(3-diethylaminopropyl)naphthalene | 78 mg | C(C)N(CCCC1=CC2=CC=C(C=C2C=C1)CCCN(CC)CC)CC | C24H38N2
